US06479660B1
I) 4-bromo-1-phthalimidopentane
A one liter, four necked round bottom flask equipped with a mechanical stirrer, thermowatch and condenser was charged with acetone (500 ml), potassium phthalimide (92.5 g, 0.5 moles) and 1,4-dibromopentane (153 g, 0.665 moles). The resulting mixture was refluxed for 24 hours (HPLC showed 2.5% unreacted phthalimide), then cooled to 15° C. Solid sodium bromide was removed by suction filtration and one wash of the cake with acetone (50 ml). The solvent was removed using a rotary evaporator to give 187.2 g of a crude viscous yellow oil. Excess 1,4-dibromopentane (34.5 g) was removed by vacuum distillation at 35-40° C./0.3 mm of pressure, leaving 144.6 g (97.7%) of a yellow viscous oil.

reactant | potassium phthalimide | 0.5 moles, 92.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,4-dibromopentane | 0.665 moles, 153 g | BrCCCC(C)Br | C5H10Br2
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-bromo-1-phthalimidopentane | 144.6 g, 97.7% | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
